US06949542B2
(2-{3-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J36) (239 mg, 0.75 mmol) and 3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K21) (253 mg, 0.75 mmol) according to the general procedure M. Obtained as a yellow solid (274 mg, 63%).

reactant | (2-amino-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 239 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CCC)C(F)(F)F)N)=O | C15H21F3N2O2
reactant | 3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.75 mmol, 253 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O | C21H23NO3
product | (2-{3-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-propyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O)=O | C32H34F3N3O4
